US07863294B2
Step 1: 2,5-Dibromo-1-{[2-(dimethylsilyl)ethoxy]methyl}-1H-imidazole (M1)
To a stirred solution of 2,5-dibromo-1H-imidazole (1 eq.) in DMF at 0° C. under Ar was added NaH (1.2 eq.) and the mixture stirred for 30 min at 0° C. Then SEM-Cl (1.1 eq.) was added dropwise, and the mixture stirred 16 h warming to RT. The reaction was quenched by slow addition of H2O and the desired product was extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The crude was purified by column chromatography eluting with 10% EtOAc/Petroleum ether to afford the desired product. 1H NMR (300 MHz, CD3CN) δ: 7.10 (1H, s), 5.21 (2H, s), 3.53 (2H, t, J=7.3 Hz), 0.90 (2H, t, J=7.3 Hz), 0.10 (9H, s). MS (ES) C9H16Br2N2OSi requires: 354:356:358 [1:2:1], found: 355:357:359 [1:2:1] (M+H)+.

reactant | 2,5-dibromo-1H-imidazole | 1 eq. | BrC=1NC(=CN1)Br | C3H2Br2N2
reactant | NaH | 1.2 eq. | [H-].[Na+]
reactant | SEM-Cl | 1.1 eq. | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,5-Dibromo-1-{[2-(dimethylsilyl)ethoxy]methyl}-1H-imidazole | BrC=1N(C(=CN1)Br)COCC[SiH](C)C | C8H14Br2N2OSi
